US07662841B2
Ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate (2.00 g, 7.3 mmol) was suspended in a mixed solvent composed of water (16 ml) and acetic acid (24 ml), concentrated sulfuric acid (7.84 g, 80.0 mmol) was added to the suspension at room temperature, and the mixture was stirred at 105° C. for about 30 hr. After the completion of the reaction, sodium carbonate (9.32 g, 88.0 mmol) was added to the reaction solution, and acetic acid was removed by distillation under the reduced pressure. Further, water (10 ml) was again added to the concentrate, and the solvent was removed by distillation under the reduced pressure. Water (10 ml) and ethyl acetate (20 ml) were added to the residue, and the mixture was adjusted to pH 7 by the addition of a 25 wt % aqueous solution of sodium hydroxide with stirring. The insolubles were removed by filtration, followed by separation. The aqueous layer was then extracted twice with ethyl acetate (20 ml, 20 ml). The organic layer was washed with 15 wt % brine (20 ml). After washing, while concentrating the organic layer, the solvent was replaced with n-hexane to crystallize 2-bromoimidazo[5,1-b]thiazole. Subsequently, the suspension was cooled to 5° C. or below and was stirred overnight. The crystals were collected by filtration, were washed with n-hexane (20 ml) and were dried under the reduced pressure to give 2-bromoimidazo[5,1-b]thiazole (1.02 g, yield 68.5%) as a white solid.

reactant | Ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate | 7.3 mmol, 2.00 g | BrC1=CN2C(S1)=C(N=C2)C(=O)OCC | C8H7BrN2O2S
reactant | water | 16 ml | O | H2O
reactant | sulfuric acid | 80.0 mmol, 7.84 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 88.0 mmol, 9.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 2-bromoimidazo[5,1-b]thiazole | 1.02 g, yield 68.5% | BrC1=CN2C(S1)=CN=C2 | C5H3BrN2S
